US05684034
To a solution of 1.53 g (5 mmol) of 6-methoxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide was added 20 mL (20 mmol) of 1M BBr3 in methylene chloride and the mixture stirred for 3 hours. Water was added and the mixture extracted with EtOAc. The EtOAc solution was washed with a NaCl solution, dried (MgSO4), and concentrated at reduced pressure. The residue was chromatographed on silica and the product eluted with 5% MeOH/methylene chloride to give 658 mg (45% yield) of 6-hydroxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide, mp, 174°-179° C.

reactant | 6-methoxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide | 5 mmol, 1.53 g | COC1=CC=C2C(=C(N(C2=C1)CC1=CC=CC=C1)C)CC(=O)N | C19H20N2O2
reactant | BBr3 | 20 mmol, 1M, 20 mL | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide | 658 mg, 45% yield | OC1=CC=C2C(=C(N(C2=C1)CC1=CC=CC=C1)C)CC(=O)N | C18H18N2O2
